US09278968B2
A solution of 244 mg of tert-butyl 4-carbamothioyl-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate and 0.1 ml of 1-bromoacetone in 10 ml of ethanol was stirred at 75° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 102 mg of tert-butyl 2,2,4-trimethyl-4-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl 4-carbamothioyl-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 244 mg | C(N)(=S)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H22N2O3S
reactant | 1-bromoacetone | 0.1 ml | BrCC(=O)C | C3H5BrO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-butyl 2,2,4-trimethyl-4-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidine-3-carboxylate | 102 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C=1SC=C(N1)C)C)C | C15H24N2O3S
